US05808062
N-(4-Hydroxy-2-oxo-6-phenyl-2H-pyran-3-yl)benzene-propanamide:
The title compound was prepared by Method E using 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride (0.150 g, 0.626 mmol), THF (6 mL), 60% sodium hydride (0.028 mL, 0.688 mmol), hydrocinnamyl chloride (0.131 g, 0.688 mmol). m.p. 191°-193° C.; 1H NMR (250 MHz, DMSO-d6) δ 2.65 (t, 2 H), 2.89 (t, 2 H), 6.86 (s, 1 H), 7.26 (m, 5 H), 7.53 (m, 3 H), 7.84 (m, 2 H), 9.28 (s, 1 H).

reactant | 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride | 0.626 mmol, 0.150 g | Cl.NC=1C(OC(=CC1O)C1=CC=CC=C1)=O
reactant | sodium hydride | 0.688 mmol, 0.028 mL | [H-].[Na+]
reactant | hydrocinnamyl chloride | 0.688 mmol, 0.131 g | C(CCC1=CC=CC=C1)Cl | C9H11Cl
reactant | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(4-Hydroxy-2-oxo-6-phenyl-2H-pyran-3-yl)benzene-propanamide | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)NC(CCC1=CC=CC=C1)=O | C20H17NO4
